// Generated for: spectre
// Generated on: Mar  6 10:03:25 2015
// Design library name: EEC289O_Tests
// Design cell name: inv_tb
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
parameters vdd=1.8V
include "/root/Desktop/Cadence/ncsu-cdk-1.6.0.beta/models/spectre/PTM/PTM180nm_bulk.scs"

// Library name: EEC289O
// Cell name: inv_1xt
// View name: schematic
subckt inv_1xt A Y
    P0 (Y A vdd! vdd!) tsmc18dP w=1.035u l=180.0n m=1 region=sat
    N0 (Y A 0 0) tsmc18dN w=360.0n l=180.0n m=1 region=sat
ends inv_1xt
// End of subcircuit definition.

// Library name: EEC289O_Tests
// Cell name: inv_tb
// View name: schematic
V0 (vdd! 0) vsource type=dc dc=vdd
I72 (nvtc Yvtc) inv_1xt
V1 (nvtc 0) vsource type=pwl mag=1 phase=0 offset=900m wave=[ 0 0 100n vdd \
        ]
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
ac ac start=100M stop=100G annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save nvtc Yvtc 
saveOptions options save=allpub
